* C:\Users\brady\GitHub\Tone-Matrix\sim\FullOscillator.asc
R1 Square IN {R}
C1 IN 0 {C}
A1 IN 0 0 0 0 Square 0 0 SCHMITT Vhigh=6 Vt=2.9 Vh=0.65 Td=12n
R2 N001 SqBuff 1k
C2 N002 N001 470n
R3 N003 Square 10k
R4 N003 VBIAS 10k
R5 SqBuff N003 10k
V1 VBIAS 0 -3
XU1 0 N001 VDD VSS N002 LT1007
V2 VDD 0 5
V3 VSS 0 -5
R6 N002 N001 2k
XU2 0 N003 VDD VSS SqBuff LT1007
R7 N004 Tri 13k
R8 N006 N004 30k
C3 Sine N004 3.3n
C4 0 N006 4.7n
XU3 N006 N007 VDD VSS Sine LT1007
R9 Sine N007 1k
R10 N007 0 1k
C5 Tri N002 100µ
XU4 0 N005 VDD VSS Buff LT1007
R11 N005 Sine 10k
R12 Buff N005 20k
* F = 1.6kHz
.tran 0 30m 25m startup
.param R=150 C=4.7u
.lib LTC.lib
.backanno
.end
