* C:\Users\brady\GitHub\Tone-Matrix\sim\Integrator.asc
R2 N001 VIN 100
C2 Triangle N001 4.7µ
XU3 0 N001 VDD VSS Triangle LT1007
V2 VDD 0 5
V3 VSS 0 -5
R6 Triangle N001 200
V1 VIN 0 PULSE(-1 1 20u 5u 5u 312u 625u)
.lib opamp.sub
.tran 0 10m 0 startup
.param R=150 C=4.7u
.lib LTC.lib
.backanno
.end
