* C:\Users\brady\GitHub\blog_hugo\blog\static\synth\SchmittTrigger.asc
R1 Square IN {R}
C1 IN 0 {C}
A2 IN 0 0 0 0 Square 0 0 SCHMITT Vhigh=6 Vt=2.9 Vh=0.65 Td=12n
R2 N001 SqBuff 100
C2 Triangle N001 4.7µ
R3 N002 Square 10k
R4 N002 VBIAS 10k
R5 SqBuff N002 10k
V1 VBIAS 0 -3
XU3 0 N001 VDD VSS Triangle LT1007
V2 VDD 0 5
V3 VSS 0 -5
R6 Triangle N001 200
XU1 0 N002 VDD VSS SqBuff LT1007
.lib opamp.sub
.tran 0 75m 0 startup
.param R=150 C=4.7u
* F = 1.6kHz
.lib LTC.lib
.backanno
.end
